Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Morphine / Darvon / Darvocet A500 / Iodine-Iodine Containing / 
Penicillins / Tegretol
 
Attending: ___
 
Chief Complaint:
chest pain s/p EGD and variceal banding 
 
Major Surgical or Invasive Procedure:
EGD on ___ ___. 

 
History of Present Illness:
___ with decompensated NASH cirrhosis, history of non hodgkin's 
lymphoma with liver metastases s/p autologous stem cell 
tranaplant presenting with chest pain s/p prophylactic 
endoscopic band ligation yesterday. 5 bands were placed for 
large esophageal varices with high risk stigmata. Pt says chest 
pain started in PACU post procedure, and continued at home, not 
relieved by home omeprazole or oxycodone, worsened by attempting 
to take p.o. Denies prior episodes, pleuritic component. Has had 
some mild nausea. 
 
No SOB, no fevers/chills. Pt has had chest pain in the past, 
more left sided and different than this current pain, and she 
had a normal stress test in ___.  
 
ACS was ruled out based on EKG and negative cardiac enzymes. 
Labs were notable for ALT/AST 41/57, HCT 34.1. She was seen by 
hepatology in ED, with ddx esophageal spasm, r/o perforation. CT 
chest was negative for esophageal perforation and she was 
admitted for pain control.  

This morning, pt reports sternal chest pain ___ that worsens 
with eating. Pain has stayed the same in severity.  
 
  
 
Past Medical History:
PMH: 
stage IV large cell non-Hodgkin's lymphoma with mets to the 
liver in ___ for which she received a stem cell transplant, 
insulin-dependent DM, 
esophageal varices stage III, 
degenerative joint disease, 
NASH cirrhosis

PSH: 
lumbar laminectomy in ___, coccygectomy in ___, cervical 
fusion in ___, BSO in approximately ___, lap-> open 
cholecystectomy in ___, tonsillectomy in ___.
 
Social History:
___
Family History:
Mother had hepatitis C and died from cirrhosis.  Father had 
testicular cancer at an elderly age and died from a stroke.  
There is significant
diabetes in her family history.

No family history of colon cancer or IBD

 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:
Vitals: T: 98 BP: 90/49 P: 81 R: 18 O2: 97%  
General: in moderate distress given chest pain, pt with Rt 
ptosis, A&Ox3, no respiratory distress,   
HEENT: MMM, NCAT, no pharyngeal erythema/exudate    
Neck: distended neck veins, supple, no LAD
Lungs: CTAB, no wheezes, crackles, or rhonchi, no crepitus in 
the anterior chest wall
CV:  RRR, no m/r/g, +S1/S2
Abdomen: distended, hepatomegaly, +BSx4, fluid wave present. 
Ext: no edema
Neuro: Rt ptosis, CN II-XII intact, sensory and motor intact 
globally

PHYSICAL EXAM ON DISCHARGE:

Vitals: T: 98.7 BP: 95/54 P: 88 R: 18 O2: 98%  
General: NAD, A&Ox3, no respiratory distress,   
HEENT: MMM, NCAT, no pharyngeal erythema/exudate    
Neck: distended neck veins, supple, no LAD
Lungs: CTAB, no wheezes, crackles, or rhonchi, no crepitus in 
the anterior chest wall
CV:  RRR, no m/r/g, +S1/S2
Abdomen: distended, hepatomegaly, +BSx4, fluid wave present. 
Ext: no edema
Neuro: Rt ptosis, CN II-XII intact, sensory and motor intact 
globally

 
Pertinent Results:
LABS ON ADMISSION:
___ 11:15PM   cTropnT-<0.01
___ 08:34PM URINE  HOURS-RANDOM
___ 08:34PM URINE  GR HOLD-HOLD
___ 08:34PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 08:34PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 05:30PM   GLUCOSE-196* UREA N-8 CREAT-0.6 SODIUM-137 
POTASSIUM-4.1 CHLORIDE-96 TOTAL CO2-29 ANION GAP-16
___ 05:30PM   estGFR-Using this
___ 05:30PM   ALT(SGPT)-41* AST(SGOT)-57* ALK PHOS-208* TOT 
BILI-1.0
___ 05:30PM   LIPASE-47
___ 05:30PM   cTropnT-<0.01
___ 05:30PM   ALBUMIN-3.7
___ 05:30PM   WBC-4.6 RBC-4.05* HGB-11.5* HCT-34.1* MCV-84# 
MCH-28.5 MCHC-33.9 RDW-14.4
___ 05:30PM   NEUTS-57.2 ___ MONOS-9.4 EOS-4.2* 
BASOS-0.7
___ 05:30PM   PLT COUNT-117*

LABS ON DISCHARGE:
___ 07:10AM BLOOD WBC-3.3* RBC-3.68* Hgb-10.4* Hct-31.7* 
MCV-86 MCH-28.3 MCHC-32.9 RDW-15.2 Plt Ct-83*
___ 07:10AM BLOOD Plt Ct-83*
___ 07:10AM BLOOD Glucose-78 UreaN-7 Creat-0.6 Na-139 K-3.5 
Cl-102 HCO3-30 AnGap-11
___ 07:10AM BLOOD ALT-28 AST-38 AlkPhos-174* TotBili-1.5
___ 07:10AM BLOOD Calcium-8.4 Phos-3.2 Mg-2.0
___ 08:36AM BLOOD %HbA1c-6.9* eAG-151*

IMAGING: 
CT ABD ___:
1.  Circumferential thickening about the lower esophagus may 
represent mural
thickening from esophagitis versus esophageal varices, but 
assessment is
limited on this non-contrast exam. No pneumomediastinum, fluid 
collection, or
adjacent stranding in the fat planes around the lower esophagus 
to suggest
perforation. Given that the study is limited by the lack of oral 
contrast and
since there is no obvious gross esophageal perforation, further 
assessment
with an esophagram using barium oral contrast could be performed 
if clinical
concern persists in this patient with iodinated contrast 
allergy. 
2.  Fluid in the upper esophagus increases the risk of 
aspiration.
3.  6 mm nodule in the right upper lobe was not present in ___. 
 Follow up in
6 months is recommended with nonenhanced chest CT.

CXR ___:
No acute cardiopulmonary abnormality including no definite 
evidence of
pneumomediastinum.

 
Brief Hospital Course:
___ with decompensated NASH cirrhosis, history of non hodgkin's 
lymphoma with liver metastases s/p autologous stem cell 
tranaplant presenting with epigastric pain following endoscopic 
band ligation of esophageal varices.  
 
ACUTE DIAGNOSES: 
#) Epigastric pain: Most likely due to esophageal spasms. 
Improving with IV dilaudid and lidocaine viscous. ACS was ruled 
out based on negative EKG and cardiac enzymes. Non-contrast CT 
did not show any evidence of perforation. PE not concerning for 
crepitus or respiratory distress.  Gastrografin esophagogram was 
entertained but never done since pain improved with bowel rest 
and pain medications. 
  
#) Decompensated NASH cirrhosis c/b varices: s/p prophylactic 
endoscopic band ligation with 5 bands placed. Pt was made NPO 
given risk for perforation. Carafate and omeprazole was 
continued. However, when pain improved and pt reported dyspnea, 
we resumed diuretics at home dose including torsemide and 
spironolactone. Repeat EGD was recommended in 3 weeks.  
   
#) New pulmonary nodule: seen on CT chest on ___ and repeat CT 
in 6 months was recommended. Pt was aware of this finding. She 
has undergone PET scan recently and it was negative for active 
malignancy. Pt to follow up in 6 months.   

CHRONIC ISSUES:
#) DM type II on insulin pump: last A1C 6.9%. Pt on insulin pump 
in addition to metformin at home. ___ consult was obtained 
and recommended reducing basal dose to 2.5 from 3.5 given pt on 
NPO. Metformin was held through hospitalization. 
  
#) Non-hodgkins lymphoma: s/p chemotherapy, autologous 
transplant.  

TRANSITIONAL ISSUES:
[] repeat EGD in ___
[] repeat chest CT in 6 months given new pulmonary nodules 
[] f/u low blood counts, including plt, WBC, anemia 
[] f/u with endocrinologist regarding insulin pump settings 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Onglyza (saxagliptin) 2.5 mg Oral daily 
2. Rifaximin 550 mg PO BID 
3. MetFORMIN (Glucophage) ___ mg PO DAILY 
4. Vitamin D 400 UNIT PO DAILY 
5. Spironolactone 100 mg PO BID 
6. Torsemide 10 mg PO BID 
7. Nadolol 40 mg PO BID 
8. Ursodiol 300 mg PO DAILY 
9. Cyclobenzaprine 10 mg PO BID:PRN pain 
10. Levothyroxine Sodium 50 mcg PO DAILY 
11. Omeprazole 40 mg PO DAILY 
12. Diazepam 2 mg PO DAILY prn anxiety 
13. Sucralfate 1 gm PO QID 
14. Ondansetron 4 mg PO Q6 prn  
15. DiphenhydrAMINE 50 mg PO HS:PRN itching 
16. Lactulose 100-120 mL PO DAILY 
17. Magnesium Oxide 800 mg PO BID 

 
Discharge Medications:
1. Cyclobenzaprine 10 mg PO BID:PRN pain 
2. Diazepam 2 mg PO DAILY prn anxiety 
3. DiphenhydrAMINE 50 mg PO HS:PRN itching 
4. Lactulose 100-120 mL PO DAILY 
5. Levothyroxine Sodium 50 mcg PO DAILY 
6. Magnesium Oxide 800 mg PO BID 
7. Nadolol 40 mg PO BID 
8. Omeprazole 40 mg PO DAILY 
9. Rifaximin 550 mg PO BID 
10. Spironolactone 100 mg PO BID 
11. Sucralfate 1 gm PO QID 
12. Torsemide 10 mg PO BID 
13. Ursodiol 300 mg PO DAILY 
14. Vitamin D 400 UNIT PO DAILY 
15. MetFORMIN (Glucophage) ___ mg PO DAILY 
16. Ondansetron 4 mg PO Q6 prn  
17. Onglyza (saxagliptin) 2.5 mg Oral daily 
18. Insulin  Pump SC (Self Administering Medication)Insulin 
Lispro (Humalog)

Basal Rates:
  Midnight - midnight:  2.5 Units/Hr
Meal Bolus Rates:
  Breakfast = 1:2
  Lunch = 1:2
  Dinner = 1:2
  Snacks = 1:2
High Bolus:
  Correction Factor = 1:10
  Correct To ___ mg/dL

MD has ordered ___ consult

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ACUTE DIAGNOSES:
1. chest pain
2. esophageal varices
3. ___ cirrhosis 

CHRONIC DIAGNOSES: 
1. diabetes 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you here at the ___ 
___. 

You presented to us with chest pain after undergoing an 
esophagogastroduodenoscopy (EGD) and banding of your esophageal 
varices. We ruled out cardiac causes of chest pain based on 
negative EKG and cardiac enzymes. We ruled out esophageal 
perforation by doing a CT scan of your chest which was negative 
for any evidence of perforation. Thus, we think your chest pain 
was most likely due to spasms after the procedure. Your pain was 
managed with dialudid and lidocaine. We advanced your diet 
further based on your tolerance and appetite. 

Please take your medications as instructed. Please follow up 
with your primary care physician and GI doctors as ___. 
 
Followup Instructions:
___